US09278951B2
Synthesis of 1-nonyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide
4,5-Dichloroimidazole (1.23 g, 9 mmol) was dissolved into 27 mL of acetonitrile. Potassium hydroxide (0.61 g, 9.9 mmol) was added and the mixture was allowed to stir for 0.5 h. 1-bromononane (1.72 mL, 9 mmol) was added and the solution was allowed to reflux overnight. The solution was filtered hot to remove a white precipitate (presumed to be KBr) and 2-bromomethylnaphthalene (1.98 g, 9 mmol) was added and the mixture was returned to reflux overnight. The mixture was then allowed to cool to room temperature, resulting in a yellow/white precipitate (2.73, 56% yield). 1H NMR (500 MHz, DMSO-d6) 9.63 (1H, s, NCHN), 7.99 (4H, m, Ar), 7.58 (3H, m, Ar), 5.66 (2H, s, NCH2), 4.22 (2H, t, NCH2), 1.82 (2H, tt, CH2), 1.25 (12H, m, CH2), 0.93 (3H, t, CH3). MS: m/z=402.8 (theor for C23H29Cl2N2Br1=484.31).

reactant | 4,5-Dichloroimidazole | 9 mmol, 1.23 g | ClC=1N=CNC1Cl | C3H2Cl2N2
reactant | Potassium hydroxide | 9.9 mmol, 0.61 g | [OH-].[K+]
reactant | 1-bromononane | 9 mmol, 1.72 mL | BrCCCCCCCCC | C9H19Br
reactant | KBr | [K+].[Br-]
reactant | 2-bromomethylnaphthalene | 9 mmol, 1.98 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetonitrile | 27 mL | C(C)#N | C2H3N
product | 1-nonyl-3-methylnaphthyl-4,5-dichloroimidazolium bromide | 56% yield | [Br-].C(CCCCCCCC)C1=C(C(=CC2=CC=CC=C12)C)[N+]1=CNC(=C1Cl)Cl | InChI=1S/C23H28Cl2N2.BrH/c1-3-4-5-6-7-8-9-14-20-19-13-11-10-12-18(19)15-17(2)21(20)27-16-26-22(24)23(27)25;/h10-13,15-16H,3-9,14H2,1-2H3;1H
